US06797726B1
In 10 mL of benzene is dissolved 0.73 g of 2-[2-(6-quinoxalinyl)ethoxy]-1-ethanol, to which is added 0.32 mL of thionyl chloride. The mixture is heated under reflux for 30 minutes. The solvent is distilled off and the deposited crystal is collected by filtration to obtain 0.37 g of 6-[2-(2-chloroethoxy)-ethyl]-quinoxaline hydrochloride.

reactant | 2-[2-(6-quinoxalinyl)ethoxy]-1-ethanol | 0.73 g | N1=CC=NC2=CC(=CC=C12)CCOCCO | C12H14N2O2
reactant | thionyl chloride | 0.32 mL | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 6-[2-(2-chloroethoxy)-ethyl]-quinoxaline hydrochloride | 0.37 g | Cl.ClCCOCCC=1C=C2N=CC=NC2=CC1 | InChI=1S/C12H13ClN2O.ClH/c13-4-8-16-7-3-10-1-2-11-12(9-10)15-6-5-14-11;/h1-2,5-6,9H,3-4,7-8H2;1H
